US08168802B2
A solution of sodium carbonate (572 mg, 5.4 mmol) in deionized water (6 mL) was added to a solution of 5-iodo-1-(2-methylpropyl)-2-propyl-1H-imidazole-4-carbonitrile (634 mg, 2.0 mmol) and 4-aminopyridin-3-ylboronic acid hydrochloride salt (383 mg, 2.2 mmol) in n-propanol (15 mL), and nitrogen was bubbled through the resultant solution for 15 minutes. Palladium (II) acetate (22 mg, 0.1 mmol) and triphenylphosphine (79 mg, 0.3 mmol) were added. The reaction was evacuated and purged with nitrogen several times and then heated at reflux for 18 hours. The reaction mixture was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The aqueous layer was separated and extracted several times with ethyl acetate. The combined organic fractions were washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 7% methanol in dichloromethane) to provide 210 mg of 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c][1,6]naphthyridin-4-amine as a tan solid.

reactant | sodium carbonate | 5.4 mmol, 572 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-iodo-1-(2-methylpropyl)-2-propyl-1H-imidazole-4-carbonitrile | 2.0 mmol, 634 mg | IC1=C(N=C(N1CC(C)C)CCC)C#N | C11H16IN3
reactant | 4-aminopyridin-3-ylboronic acid hydrochloride salt | 2.2 mmol, 383 mg | Cl.NC1=C(C=NC=C1)B(O)O
reactant | triphenylphosphine | 0.3 mmol, 79 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 6 mL | O | H2O
solvent | n-propanol | 15 mL | C(CC)O | C3H8O
catalyst | Palladium (II) acetate | 0.1 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c][1,6]naphthyridin-4-amine | 210 mg | CC(CN1C(=NC=2C(=NC=3C=CN=CC3C21)N)CCC)C | C16H21N5
